US06071965
Di-tert-butyl 2-methylenepentanedioate
Tert-butyl acrylate (465 g, 3.628 mol) was warmed to 100° C. under nitrogen, then hexamethylphosphorous triamide (10 g, 61.2 mmol) was added dropwise and the addition rate was adjusted to maintain the reaction temperature at 100° C. The reaction mixture was allowed to cool, then poured over a plug of silica (~1000 ml) and washed completely off the silica with 4:1 hexane/ethyl acetate. The solvent was removed under reduced pressure and the resulting oil was distilled. Some material was collected from room temperature to 50° C. under high vacuum, and discarded. The temperature was then raised to -80° C. and the product (300 g, 65%, b.p. 67-70° C. at 300μ) was collected as a clear oil. 1H NMR (CDCl3): δ 1.4 (m, 18H), 2.4 (t, 2H), 2.6 (t, 2H), 5.5 (s, 1H), 6.0 (s, 1H).

reactant | Tert-butyl acrylate | 3.628 mol, 465 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | hexamethylphosphorous triamide | 61.2 mmol, 10 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | Di-tert-butyl 2-methylenepentanedioate | C=C(C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C | C14H24O4
